US08895596B2
Step D 4-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}-cyclohexane carboxylic acid.
To a solution of ethyl 4-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate (0.615 g, 1.291 mmol) in THF (5 ml) was added potassium trimethyl silanolate (0.550 g, 4.29 mmol). The reaction was stirred overnight at ambient temperature. Then the volatiles were removed in vacuo and the resulting residue was acidified with 1N aqueous HCl and extracted with EtOAc. The organic phase was washed with water and concentrated in vacuo. Purification of the resulting residue by reverse phase HPLC eluting with 50-100% MeCN: H2O afforded the title compound as a white solid. LC-MS: calculated for C26H22F2N2O3 448.16, observed m/e 449.01 (M+H)+ (Rt 2.32/4 min). 1H NMR (500 MHz, C2D6OS): δ 7.80-7.70 (m, 4H), 7.55-7.45 (m, 4H), 7.40 (m, 1H), 7.15 (d, 1H), 5.00-4.90 (m, 1H), 2.30 (m, 1H), 2.25 (m, 2H), 2.00 (m, 2H), 1.50 (m, 4H).

reactant | ethyl 4-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}cyclohexanecarboxylate | 1.291 mmol, 0.615 g | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CCC(CC2)C(=O)OCC)C=C1F)F)C1=CC=CC=C1 | C28H26F2N2O3
reactant | potassium trimethyl silanolate | 4.29 mmol, 0.550 g | C[Si]([O-])(C)C.[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-{[5-(biphenyl-4-yl)-4,6-difluoro-1H-benzimidazol-2-yl]oxy}-cyclohexane carboxylic acid | C1(=CC=C(C=C1)C1=C(C2=C(NC(=N2)OC2CCC(CC2)C(=O)O)C=C1F)F)C1=CC=CC=C1 | C26H22F2N2O3
